US05037835
1-(3-Amino-4-pyridinyl)-2,3-dihydro-1H-indole
In a 500 ml Parr hydrogenation bottle was suspended 1.0 g of 5% Pd/C in 25 ml ethanol, followed by a suspension of 2,3-dihydro-1-(3-nitro-4-pyridinyl)-1H-indole (4.7 g) in 125 ml ethanol. After shaking at 50 psi H2 at ambient temperature for five hours, the mixture was filtered and the filtrate concentrated to an oil (4.2 g). This oil was eluted on a silica gel column with ethyl acetate via HPLC and the desired fractions were combined and concentrated to give a solid, 4.0 g, m.p. 89-90° C. This material was recrystallized from ether/hexanes (4:1) to give a solid, 2.9 g, m.p. 90°-92° C.

reactant | 2,3-dihydro-1-(3-nitro-4-pyridinyl)-1H-indole | 4.7 g | [N+](=O)([O-])C=1C=NC=CC1N1CCC2=CC=CC=C12 | C13H11N3O2
solvent | ethanol | 25 ml | C(C)O | C2H6O
solvent | ethanol | 125 ml | C(C)O | C2H6O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 1-(3-Amino-4-pyridinyl)-2,3-dihydro-1H-indole | NC=1C=NC=CC1N1CCC2=CC=CC=C12 | C13H13N3
